US07897607B2
Diethyl [2-(dipropylamino)-1-ethoxy-2-(6-mesitylpyridin-2-yl)ethyl]malonate
N-[(6-mesitylpyridin-2-yl)methyl]-N-propylpropan-1-amine (0.71 g, 2.29 mmol), was dissolved in tetrahydrofuran (15 mL). The solution was cooled to −78° C. and n-butyllithium (2.5M, 1.0 mL, 2.51 mmol) was added drop wise. After 0.5 h, diethyl ethoxymethylene malonate (0.48 mL, 2.40 mmol) was added. The reaction was removed from the dry ice bath and allowed to warm to room temperature. The mixture was quenched with water, extracted with ether, dried over sodium sulfate, filtered and concentrated. Flash chromatography gave 0.65 g (59% yield) of an isomeric mixture of the title compound.

reactant | N-[(6-mesitylpyridin-2-yl)methyl]-N-propylpropan-1-amine | 2.29 mmol, 0.71 g | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CN(CCC)CCC)C | C21H30N2
reactant | n-butyllithium | 2.51 mmol, 2.5M, 1.0 mL | C(CCC)[Li]
reactant | diethyl ethoxymethylene malonate | 2.40 mmol, 0.48 mL | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Diethyl [2-(dipropylamino)-1-ethoxy-2-(6-mesitylpyridin-2-yl)ethyl]malonate | C(CC)N(C(C(OCC)C(C(=O)OCC)C(=O)OCC)C1=NC(=CC=C1)C1=C(C=C(C=C1C)C)C)CCC | C31H46N2O5
